Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, cough
 
Major Surgical or Invasive Procedure:
CT guided thoracentesis on ___
 
History of Present Illness:
Mr. ___ is a ___ ___ man with
RLL SCC s/p chemo, RT, RLL lobectomy, and no other past medical
history here visiting his brother who presented to the ED with
dyspnea.

Per a letter from Dr. ___ (a pulmonologist from ___
who is friends with the patient and sent him with a letter), Mr.
___ has a 35 pack-year history. In ___ he had coughing
and DOE and had a CT-Thorax with enlarged medistanal lymph nodes
and ground-glass opacities in the RLL which did not improve with
antibiotics, and a repeat CT in ___ showed persistent
lymph nodes. He had an EBUS which "demonstrated a polipoid 
lesion
in the superior segment of the right lower lobe (not obstructing
the whole lumen)" and multiple mediastinal lymph nodes. Biopsies
of the lesions and a subcarinal lymph node showed a squamous 
cell
carcinoma. PET-CT did not show mets. He had neoadjuvant systemic
chemo with paclitaxel + Carboplatin with radiation (finished
___. 

A CT in ___ showed decreased mediastinal node size and
resolution of the ground glass in the RLL. He then underwent a
RLL lobectomy and mediastinal lymph node resection. However,
there was a new CT-Thorax ground glass opacity in the posterior
right upper lobe that was considered to be a "post-radiation
parenchymal fibrotic lesion and unfortunately did not order a 
new
PET-CT before surgery."

A repeat PET-CT in ___ showed a 26mmx23mm RUL with FDG uptake
of 10.6, right hilar lymph node with FDG uptake of 9.2, and on
repeat PET in ___ this persisted. Nuclear medicine called 
this
progression, but surgery is declining to operate as they think 
it
is radiologic progression. Dr. ___ is asking for a second
opinion.

Mr. ___ says he is here to visit his brother (arrived from
___ ___, not specifically for medical follow up. He says
that 1 day prior to admission he had acute dyspnea. He denies 
any
fevers, chills or cough though per ED documentation he had 1 
week
of feverishness, worsening cough productive of yellow-brown
sputum without hemoptysis, R sided chest pain at site of lung
resection, and a "sticking sensation" in throat. 

In the ED, initial vital signs were notable for:
97.5 | 105 | 148/82 | 18 | 99% RA

ED exam notable for diffusely wheezy lungs, ___ non-pitting ___
edema.

Labs were notable for: Lactate 2.8-->1.8 after IVF. 
WBC 5.7
Hgb 13.6
Platelets 279
Chemistry panel wnl

AST 30 | ALT 45 | AP 84 | LDH 124 | Tbili 0.4 | Alb 4.3

CTA chest showed:
1. No evidence of pulmonary embolism or acute aortic 
abnormality.
2. Large, loculated right pleural effusion, which appears simple
in nature.
3. Patient is status post right lower lobectomy. There is right
hilar fibrosis and soft tissue which could represent component 
of
adenopathy, post treatment changes or underlying mass which is
not further characterized on this exam without priors for
comparison. No additional pulmonary parenchymal nodule or mass.
Recommend follow-up PET-CT or correlation with recent prior to
assess for underlying malignancy.

IP was consulted and placed chest tube, pleural fluid showed 610
WBCs (89% lymphs), 6560 RBCs, Protein 4.8, Glucose 93, pH 7.47,
proBNP 63.

Patient was given: 1gm CTX x 2, azithro 250 x 2, albuterol neb,
1L IVF 

Vitals on transfer: 98.9 | 96 | 126/82 | 22 | 96% RA

Upon arrival to the floor, Mr. ___ is resting comfortably.
Using phone interpreter services, he says his brother will be in
at 7. He tells the different ROS (no fever/cough) as described
above - he does have a rare, nonproductive cough. Mostly he has
pain at site of his right chest tube worse with inspiration. ROS
otherwise negative for headache, lightheadedness, chills, chest
pain/pressure, abd pain, nausea/vomiting, diarrhea, rash, ___
edema. 
 
Past Medical History:
RLL ___ s/p chemo/XRT
RLL lobectomy with recent PET concerning for recurrence of
disease
 
Social History:
___
Family History:
No known FH of malignancy
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===============================
VITALS: 98.1 | 115/73 | 79 | 16 | 97%Ra 
GENERAL: Alert and interactive. In no acute distress, nontoxic.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs. Slight gallop at apex. 
LUNGS: Right lung has rhonci from base to mid-lung; otherwise
clear to auscultation. No increased WOB.
BACK: Right-sided chest tube with dressing c/d/I. 
GU: No foley.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash on face, arms, abdomen, back.
NEUROLOGIC: CN2-12 grossly intact. Moving all limbs with purpose
against gravity.

DISCHARGE PHYSICAL EXAM:
===============================
VITALS:24 HR Data (last updated ___ @ 744)
    Temp: 97.9 (Tm 98.5), BP: 115/75 (115-128/68-76), HR: 74
(74-94), RR: 20 (___), O2 sat: 97% (95-97), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress, nontoxic.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs. Slight gallop at apex. 
LUNGS: Right lung has rhonci from base to mid-lung; otherwise
clear to auscultation. No increased WOB.
BACK: Right-sided chest tube with dressing c/d/I. 
GU: No foley.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash on face, arms, abdomen, back.
NEUROLOGIC: CN2-12 grossly intact. Moving all limbs with purpose
against gravity. 
 
Pertinent Results:
ADMISSION LABS:
==========================
WBC-5.7 RBC-4.46* Hgb-13.6* Hct-42.5 MCV-95 MCH-30.5 MCHC-32.0 
RDW-14.5 RDWSD-50.6* Plt ___
Neuts-68.2 ___ Monos-9.2 Eos-1.4 Baso-0.7 Im ___ 
AbsNeut-3.88 AbsLymp-1.14* AbsMono-0.52 AbsEos-0.08 AbsBaso-0.04
Glucose-109* UreaN-11 Creat-0.9 Na-141 K-4.6 Cl-99 HCO3-27 
AnGap-15
Lactate-2.8* --> 1.9

PERTINENT LABS:
==========================
___ PTT-25.9 ___
ALT-45* AST-30 LD(LDH)-123 AlkPhos-84 TotBili-0.4
Calcium-9.7 Phos-3.3 Mg-1.7
Albumin-4.3

PLEURAL FLUID ANALYSIS:
==========================
___-___* ___-___* Polys-3* Lymphs-89* Monos-0 Eos-1* Plasma-1* 
Meso-1* Macro-5*
TotProt-4.8 Glucose-93 LD(LDH)-135 Cholest-85 proBNP-63
Adenosine deaminase - pending
Culture - pending, no growth to date
Cytology - pending

IMAGING:
==========================
CHEST CT-A ___
1. No evidence of pulmonary embolism or acute aortic 
abnormality. 
2. Large, loculated right pleural effusion, which appears simple 
in nature. 
3. Patient is status post right lower lobectomy.  There is right 
hilar 
fibrosis and soft tissue which could represent component of 
adenopathy, post treatment changes or underlying mass which is 
not further characterized on this exam without priors for 
comparison.  No additional pulmonary parenchymal nodule or mass. 
 Recommend follow-up PET-CT or correlation with recent prior to 
assess for underlying malignancy. 

CHEST XR ___:
There has removal of the right basilar pleural pigtail catheter. 
 There is a moderate sized right basilar hydropneumothorax, 
stable. Left lung is clear. 

 
Brief Hospital Course:
SUMMARY:
======================
___ ___ man with RLL ___ s/p chemo, RT, RLL lobectomy, and 
no other past medical history here visiting his brother who 
presented to the ED with dyspnea. Per letter from pulmonologist, 
most recent PET ___ showing possible recurrence of disease 
but this is unclear. On admission, the patient was found to have 
pleural effusion, s/p IP chest tube in place. Initially started 
on empiric cap coverage but this was discontinued given no 
fevers or leukocytosis.

ACTIVE ISSUES:
======================
# Loculated pleural effusion:
Presented with dyspnea and cough, found to have a loculated 
pleural effusion on CT. He is s/p chest tube placement by IP on 
___ this was removed on ___. He is symptomatically 
improved. The pleural effusion is exudative per
light's criteria. DDX includes malignant pleural effusion vs TB 
vs parapneumonic effusion though given lack of fever and 
leukocytosis his antibiotics were discontinued. CXR prior to 
discharge was stable. 

# Right lower lobe squamous cell carcinoma with possible 
recurrence:
Patient will follow up with IP as an outpatient. Depending on 
pleural fluid cytology and insurance, patient may be referred to 
outpatient oncology or may need to return to ___ to continue 
working with his established oncologist. 

# Elevated ALT: borderline elevated to 45, not repeated

TRANSITIONAL ISSUES:
======================
# Loculated pleural effusion:
# Squamous cell carcinoma of the lung:
- IP follow up, to be scheduled ~ 2 weeks
- IP to follow up pleural fluid culture, cytology and adenosine 
deaminase
- ___ need repeat chest imaging
- Pt's outpatient oncologist wants a second opinion on PET CT in 
___ given c/f possible recurrence
- Consider arranging a new outpatient oncologists depending on 
above results
- Pt may benefit from social work to help him apply for health 
insurance

# Elevated ALT:
- Repeat LFTs as outpatient
- Consider imaging of liver to evaluate for metastasis
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Squamous cell lung cancer
Loculated pleural effusion
Elevated ALT (borderline)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were short of breath.

What happened in the hospital?
- You had a cat scan of your chest which showed that you had 
fluid in your lungs
- You had a procedure to drain the fluid and you felt better 
after this

What should I do when I go home?
- Please follow up with the interventional pulmonary (lung) team 
as an outpatient (see below). 
- Please go to the emergency room if you develop worsening 
shortness of breath, chest pain, cough, fever or any other 
symptoms that worry you. 

It was a pleasure taking part in your care. We wish you all the 
best.

Sincerely,
The team at ___
 
Followup Instructions:
___